US03941795
To a mixture of 4.2 g (0.0083 mole) of 4-[4-[α-(p tert-butylphenyl)-α-hydroxybenzyl]piperidino]butyrophenone hydrochloride and 0.54 g (0.01 mole) of sodium methoxide in 25 ml of methanol is added 2.16 g (0.04 mole) of potassium borohydride. The reaction mixture is stirred overnight, diluted with water and the methanol removed under reduced pressure. The remaining material is extracted with chloroform, washed with water, dried over magnesium sulfate and filtered. The filtrate is concentrated, and the residue is recrystallized from acetone-water to give 4-[α-(p-tert-butylphenyl)-α-hydroxybenzyl]-α-phenyl-1-piperidinebutanol, M.P. 161°-163°C.

reactant | 4-[4-[α-(p tert-butylphenyl)-α-hydroxybenzyl]piperidino]butyrophenone hydrochloride | 0.0083 mole, 4.2 g | Cl.C(C)(C)(C)C1=CC=C(C=C1)C(C1=CC=CC=C1)(O)C1CCN(CC1)CCCC(=O)C1=CC=CC=C1
reactant | sodium methoxide | 0.01 mole, 0.54 g | C[O-].[Na+]
reactant | potassium borohydride | 0.04 mole, 2.16 g | [BH4-].[K+]
solvent | methanol | 25 ml | CO | CH4O
solvent | water | O | H2O
product | 4-[α-(p-tert-butylphenyl)-α-hydroxybenzyl]-α-phenyl-1-piperidinebutanol | C(C)(C)(C)C1=CC=C(C=C1)C(C1=CC=CC=C1)(O)C1CCN(CC1)CCCC(O)C1=CC=CC=C1 | C32H41NO2
